US06028116
(C) (Z)-5-Methoxy-2-methyl-1-(4-methylsulfonylbenzylidene)-1H-3-indenyl-(2-hydroxy)ethane
Lithium borohydride (1.38 mmol) in THF (2 ml) is added to a solution of (Z)-5-methoxy-2-methyl-1-(4-methylsulfonylbenzylidene)-3-indenylacetyl chloride (2.78 mmol) in THF (20 ml) at 0° C. The reaction is quenched with HCl (10%, aqueous, 30 ml) after 5 minutes. Ethyl acetate (50 ml) is added to extract the product.

reactant | Lithium borohydride | 1.38 mmol | [BH4-].[Li+]
reactant | (Z)-5-methoxy-2-methyl-1-(4-methylsulfonylbenzylidene)-3-indenylacetyl chloride | 2.78 mmol | COC=1C=C2C(=C(/C(/C2=CC1)=C/C1=CC=C(C=C1)S(=O)(=O)C)C)CC(=O)Cl | C21H19ClO4S
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | (Z)-5-Methoxy-2-methyl-1-(4-methylsulfonylbenzylidene)-1H-3-indenyl-(2-hydroxy)ethane | COC=1C=C2C(=C(/C(/C2=CC1)=C/C1=CC=C(C=C1)S(=O)(=O)C)C)CCO | C21H22O4S
